US08623859B2
5-({[(4-Methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-N-{1-[4-(pyrrolidin-1-ylmethyl)phenyl]ethyl}furan-3-carboxamide
The title compound was prepared according to general procedure BF using N-[1-(4-formylphenyl)ethyl]-5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxamide (39 mg, 0.08 mmol), pyrrolidine (6.8 mg, 0.1 mmol), AcOH (7 mg, 0.12 mmol), STAB (34 mg, 0.16 mmol) and DCE (1 mL). The reaction was diluted with DCM (1 mL) and washed with saturated aqueous NaHCO3 solution (5 mL). The organic phase was dried over Na2SO4 and the solvent removed in vacuo. The crude product was purified by FCC eluting with 2-10% MeOH in DCM to afford the title compound.

reactant | N-[1-(4-formylphenyl)ethyl]-5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxamide | 0.08 mmol, 39 mg | C(=O)C1=CC=C(C=C1)C(C)NC(=O)C1=COC(=C1)CN(C)S(=O)(=O)C1=C(C=C(C=C1C)OC)C | C25H28N2O6S
reactant | pyrrolidine | 0.1 mmol, 6.8 mg | N1CCCC1 | C4H9N
reactant | AcOH | 0.12 mmol, 7 mg | CC(=O)O | C2H4O2
reactant | DCE | 1 mL | ClCCCl | C2H4Cl2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | 5-({[(4-Methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-N-{1-[4-(pyrrolidin-1-ylmethyl)phenyl]ethyl}furan-3-carboxamide | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(C)CC1=CC(=CO1)C(=O)NC(C)C1=CC=C(C=C1)CN1CCCC1)C | C29H37N3O5S
